US07871998B2
(2R)-cyclohexyl[(N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl)amino]acetic acid
(2R)-cyclohexyl[(N-([4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio)-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl)amino]acetic acid (0.0085 g, 0.013 mmol) was dissolved in methanol (2 ml). NABH4 (0.006 g, 0.159 mmol) was added and when the reaction was complete according to LC-MS a few drops of acetic acid was added. The solvent was removed under reduced pressure and the residue was purified by preparative HPLC on a Kromasil C8-column using a stepwise gradient of 35%, 40% then 50% MeCN in 0.1M ammonium acetate buffer as eluent. After freeze-drying, 0.007 g (82%) of the title product was obtained. NMR (500 MHz, CD3COOD) 1.05-1.33 (m, 5H), 1.60-1.87 (m, 6H), 2.91-3.07 (m, 2H), 3.94-4.06 (m, 3H), 4.32 (d, 1H), 4.60 (s, 2H), 4.79-4.86 (m, 1H), 4.90 (d, 0.5H), 4.92 (d, 0.5H), 6.96-7.03 (m, 4H), 7.03-7.08 (brd, 2H), 7.25-7.31 (m, 2H), 7.31-7.38 (m, 4H)

reactant | (2R)-cyclohexyl[(N-([4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio)-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl)amino]acetic acid | 0.013 mmol, 0.0085 g | C1(CCCCC1)[C@H](C(=O)O)NC(CNC(COC1=CC=C(C=C1)[C@H]1N(C([C@@H]1SCC(=O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F)=O)=O | C35H35F2N3O7S
solvent | methanol | 2 ml | CO | CH4O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | (2R)-cyclohexyl[(N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl)amino]acetic acid | 0.007 g, 82% | C1(CCCCC1)[C@H](C(=O)O)NC(CNC(COC1=CC=C(C=C1)[C@H]1N(C([C@@H]1SCC(O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F)=O)=O | C35H37F2N3O7S
